US09376420B2
Step 3: 1-(2,4-difluoro-phenyl)-4,4,5,5,5-pentafluoro-pent-1-en-3-one
To a saturated solution of pentafluoroiodoethane (0.84 M, in diethyl ether) (79.0 mL, 66.0 mmol), was slowly added a solution of methyllithium/lithium bromide (1.5 M, in diethyl ether) (44.0 mL, 66.0 mmol) under nitrogen atmosphere at −78° C. The reaction mixture was stirred for 20 minutes and then a solution of 3-(2,4-difluoro-phenyl)-N-methoxy-N-methyl-acrylamide (5.0 g, 22.0 mmol, in diethyl ether 30.0 mL) prepared in Step 2 was slowly added thereto at −78° C. The reaction mixture was stirred at −78° C. for 30 minutes, quenched with distilled water, acidified by a 10% potassium hydrogen sulfate solution (pH=5), and then extracted with ethyl acetate. The extract was washed with a saturated solution of sodium hydrogen carbonate, dried on anhydrous magnesium sulfate, and then concentrated under reduced pressure to give a yellow liquid residue. The resulting residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/10) to give 6.2 g of the titled compound as a yellow liquid.

reactant | pentafluoroiodoethane | 66.0 mmol, 0.84 M, 79.0 mL | FC(C(I)(F)F)(F)F | C2F5I
reactant | methyllithium lithium bromide | 66.0 mmol, 1.5 M, 44.0 mL | C[Li].[Br-].[Li+]
reactant | 3-(2,4-difluoro-phenyl)-N-methoxy-N-methyl-acrylamide | 22.0 mmol, 30.0 mL, 5.0 g | FC1=C(C=CC(=C1)F)C=CC(=O)N(C)OC | C11H11F2NO2
product | 1-(2,4-difluoro-phenyl)-4,4,5,5,5-pentafluoro-pent-1-en-3-one | 6.2 g | FC1=C(C=CC(=C1)F)C=CC(C(C(F)(F)F)(F)F)=O | C11H5F7O
